US07687502B2
N-(1-Methyl-1H-pyrazol-3-yl)-6-(pyridin-3-yloxy)-quinazolin-4-yl-amine
The compound of Example 117 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 3-fluoropyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 3-fluoropyridine | FC=1C=NC=CC1 | C5H4FN
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | N-(1-Methyl-1H-pyrazol-3-yl)-6-(pyridin-3-yloxy)-quinazolin-4-yl-amine | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC=1C=NC=CC1 | C17H14N6O
